US08703768B2
Step 2: 2-Isopropyl-5-(pyridin-3-ylamino)-pyrimidine-4-carboxylic acid (1-methyl-5-methylcarbamoyl-1H-pyrazol-4-yl)-amide
A mixture of 5-bromo-2-isopropyl-pyrimidine-4-carboxylic acid (1-methyl-5-methylcarbamoyl-1H-pyrazol-4-yl)-amide (40 mg, 105 μmol), 3-aminopyridine (15 mg, 157 μmol) and potassium phosphate tribasic (31 mg, 147 μmol) in toluene (1 ml) was treated with tris(dibenzylideneacetone)dipalladium(0)-chloroform adduct (10.9 mg, 10.5 μmol) and xantphos (20 mg, 34.6 μmol) were added and the reaction mixture was stirred at 120° C. for 16 h. The reaction was cooled to r.t., filtrated and the product was obtained after purification by preparative HPLC using an acetonitrile/water gradient as yellow solid (10 mg, 25%).

reactant | 5-bromo-2-isopropyl-pyrimidine-4-carboxylic acid (1-methyl-5-methylcarbamoyl-1H-pyrazol-4-yl)-amide | 105 μmol, 40 mg | CN1N=CC(=C1C(NC)=O)NC(=O)C1=NC(=NC=C1Br)C(C)C | C14H17BrN6O2
reactant | 3-aminopyridine | 157 μmol, 15 mg | NC=1C=NC=CC1 | C5H6N2
reactant | potassium phosphate tribasic | 147 μmol, 31 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | xantphos | 34.6 μmol, 20 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0)-chloroform adduct | 10.5 μmol, 10.9 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
product | 2-Isopropyl-5-(pyridin-3-ylamino)-pyrimidine-4-carboxylic acid (1-methyl-5-methylcarbamoyl-1H-pyrazol-4-yl)-amide | CN1N=CC(=C1C(NC)=O)NC(=O)C1=NC(=NC=C1NC=1C=NC=CC1)C(C)C | C19H22N8O2
